US08536210B2
Step 1: 6-Methoxy-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde
The process described in Method C was followed. 6-Chloro-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde (0.270 g, 1.33 mmol) and methanol were used to obtain the title compound. The crude product was purified by column chromatography with a mixture of n-hexane:ethyl acetate (4:1) as the eluent.

reactant | 6-Chloro-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde | 1.33 mmol, 0.270 g | ClC1=C(C(N(C(N1C)=O)C)=O)C=O | C7H7ClN2O3
reactant | methanol | CO | CH4O
product | 6-Methoxy-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde | COC1=C(C(N(C(N1C)=O)C)=O)C=O | C8H10N2O4
